US07067517B2
1-(5-Hydroxy-pyrimidin-2-yl)-4,4-dimethyl-piperidine-2,6-dione
A mixture of 1-(5-methoxy-pyrimidin-2-yl)-4,4-dimethyl-piperidine-2,6-dione (0.99 g, 3.97 mmol) and pyridine hydrochloride (1.50 g, 7.99 mmol) was heated at 190° C. for 2.5 hours. After cooling to room temperature the reaction mixture was dissolved in a small amount of dichloromethane and filtered over a short pad of silicagel and washed with ethyl acetate. Evaporation of the solvent in vacuo yielded the title compound (0.60 g, 64% yield) as a white solid.

reactant | 1-(5-methoxy-pyrimidin-2-yl)-4,4-dimethyl-piperidine-2,6-dione | 3.97 mmol, 0.99 g | COC=1C=NC(=NC1)N1C(CC(CC1=O)(C)C)=O | C12H15N3O3
reactant | pyridine hydrochloride | 7.99 mmol, 1.50 g | Cl.N1=CC=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(5-Hydroxy-pyrimidin-2-yl)-4,4-dimethyl-piperidine-2,6-dione | 0.60 g, 64% yield | OC=1C=NC(=NC1)N1C(CC(CC1=O)(C)C)=O | C11H13N3O3
